US07601729B2
tert-Butyl 5-biphenyl-4-yl-2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-hydroxypentanoate
Sodium borohydride (1.05 g, 27.7 mmol) was added portion wise to a stirred solution of tert-butyl 5-biphenyl-4-yl-2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-oxopentanoate (12.1 g, 25.2 mmol) in methanol (80 mL) at 0° C. under nitrogen. On completion of addition stirring was continued for 1.5 h then the reaction was quenched with saturated aqueous ammonium chloride solution (80 mL). The resulting mixture was extracted with diethyl ether (3×200 mL) then the organic layers were combined, washed with brine (100 mL), dried (magnesium sulfate) and the solvent evaporated. The residue was chromatographed on silica gel (10% to 50% diethyl ether: cyclohexane) to give the title compound (8.47 g, 69%) as a colourless oil which was a mixture of diastereomers. LC/MS: 4.49 min; z/e 485, calcd (M+1) 485. 1H NMR (400 MHz: CDCl3): 7.60 (2H), 7.50 (2H), 7.45 (2H), 3.90 (1H minor), 3.80 (1H minor), 3.70 (1H major), 3.65 (1H major), 3.25 (1H minor), 3.00 (1H major), 2.90 (1H), 2.75 (1H), 2.60 (1H major), 2.55 (1H minor), 1.90 (1H), 1.85 (2H), 1.45 (10H), 0.90 (9H), 0.5 (6H).

reactant | Sodium borohydride | 27.7 mmol, 1.05 g | [BH4-].[Na+]
reactant | tert-butyl 5-biphenyl-4-yl-2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-oxopentanoate | 25.2 mmol, 12.1 g | C1(=CC=C(C=C1)CCC(C(C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C)=O)C1=CC=CC=C1 | C29H42O4Si
solvent | methanol | 80 mL | CO | CH4O
product | tert-Butyl 5-biphenyl-4-yl-2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-hydroxypentanoate | 8.47 g, 69% | C1(=CC=C(C=C1)CCC(C(C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C)O)C1=CC=CC=C1 | C29H44O4Si
